US04946855
A solution of 300 mg (1.20 mmol) of 2-(4-methoxyphenyl)-4-methyl-5-thiazolecarboxylic acid and 292.7 mg (1.81 mmol) of N,N'-carbonyldiimidazole (CDI) in dry dimethylformamide (8 ml) was stirred at room temperature for 1 hour. Under the same conditions, a solution of 5-aminotetrazole (122.8 mg, 1.44 mmol) in dry dimethylformamide (1 ml) was added thereto and allowed to react at 70° C. for 3 hours. After the solvent was distilled off from the reaction mixture, the residue was treated with water under ice-cooling and acidified with 2N-HCl to pH 2. The produced solids were filtered with suction, suspended in 100 ml of water and made alkaline with 1N potassium hydroxide (pH=11). After the impurities were removed from the alkaline solution by extracting with ethyl acetate, the aqueous phase was acidified with 2N-HCl to pH 2 and the deposited solids were filtered with suction, washed with water and recrystallized from methanol-THF-water to give 244.4 mg (yield 64 %) of 2-(4-methoxyphenyl)-4-methyl-N-(1H-tetrazole-5-yl)-5-thiazolecarboxamide as white crystals, m.p. 275°-278° C.

reactant | 2-(4-methoxyphenyl)-4-methyl-5-thiazolecarboxylic acid | 1.20 mmol, 300 mg | COC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)O | C12H11NO3S
reactant | 5-aminotetrazole | 1.44 mmol, 122.8 mg | NC1=NN=NN1 | CH3N5
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-(4-methoxyphenyl)-4-methyl-N-(1H-tetrazole-5-yl)-5-thiazolecarboxamide | 244.4 mg, yield 64 % | COC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NC1=NN=NN1 | C13H12N6O2S
